US04005208
A mixture of 400 g. of ethyl acrylate (containing 0.75% hydroquinone inhibitor) and 114 g. of cyclopropylamine is heated in a bomb in an oil bath at 175° C. for 10 hours. The reaction mixture is then removed and distilled in vacuo to give N-cyclopropyl-N,N-di(β-carbethoxyethyl)amine.

reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-cyclopropyl-N,N-di(β-carbethoxyethyl)amine | C1(CC1)N(CCC(=O)OCC)CCC(=O)OCC | C13H23NO4
